US08455488B2
Synthesis of 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-(naphthalen-1-ylmethyl)urea (Compound II-80)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-(naphthalen-1-ylmethyl)ureidooxy)acetic acid (Compound VI-12) 115 mg (0.42 mmol) was coupled with (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)-propanamide (Compound IV-10) 100 mg (0.28 mmol) to obtain the title compound.

reactant | 2-(3-(naphthalen-1-ylmethyl)ureidooxy)acetic acid | 0.42 mmol, 115 mg | C1(=CC=CC2=CC=CC=C12)CNC(NOCC(=O)O)=O | C14H14N2O4
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)-propanamide | 0.28 mmol, 100 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)C | C21H30N2O3
product | 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-(naphthalen-1-ylmethyl)urea | C(C)OC([C@H](C)N(C([C@H](C)NC(CONC(=O)NCC1=CC=CC2=CC=CC=C12)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C35H42N4O6
